US08017611B2
A suspension of sodium 5-fluoro-2-nitro-pyridin-3-olate (7.3 g) and platinum(IV) oxide (0.092 g) in ethanol (20 ml) at 25° C., was hydrogenated under 3.5 atm at 25° C. for 30 minutes. The resulting black suspension was filtered through a pad of Dicalite Speed Plus (Acros Chemicals) and hydrogen chloride 4M in dioxane (4.26 ml) was added to the filtrate. The suspension was filtered and concentrated to a black oil, which was triturated in diethyl ether, the precipitate was collected by filtration and dried to afford the crude 2-amino-5-fluoro-pyridin-3-ol (0.607 g) hydrochloride salt. NMR Spectrum: (DMSOd6) 7.23 (dd, 1H), 7.65 (dd, 1H), 7.82 (bs, 2H), 12.23 (bs, 1H).

reactant | sodium 5-fluoro-2-nitro-pyridin-3-olate | 7.3 g | FC=1C=C(C(=NC1)[N+](=O)[O-])[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 0.092 g | [Pt](=O)=O
product | 2-amino-5-fluoro-pyridin-3-ol | 0.607 g | NC1=NC=C(C=C1O)F | C5H5FN2O
